Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hematuria, combativeness and inability to accept care

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ male with history mild
short term memory cognitive disorder with recent MMSE ___
closely followed by Dr. ___ BPH on LUTS medications
but no indwelling foley catether at baseline, HTN  with h/o
recent left total hip ORIF on ___ s/p slip on ice on
___ during which he sustained a L hip fracture. He was
discharged to rehab in ___ yesterday but upon arrival was
noted to be febrile to 100 and confused. Post operatively his
foley catether was traumatically discontinued with the balloon
inflated. He was d/c'ed to rehab with a foley catheter in place
with plans for a voiding trial and or "initiation of Flomax" if
voiding trial unsuccessful. He was not discharged on his home 
BPH
medications and it does not look as though he received them 
there
in ___. 
Per the ED note, the patient's family member and healthcare 
proxy
his granddaughter- per wife dtr ___ is HCP, reported that he
has been agitated on and off for several days with multiple
episodes of sundowning. She was not sure if he has had a
diagnosed catheter associated UTI. She denied any cough 
shortness
of breath, or other obvious infectious type symptoms. 
Per his wife ___ when she saw him at the rehab he was 
markedly
different from his baseline yelling at her and his
grand-daughter. Given his behavioral issues, he was transferred
back here for a infectious toxic metabolic and behavioral 
workup.

Per ED dashboard: "The patient's healthcare proxy did speak with
multiple additional skilled nursing facilities in the area
including ___ and confirmed he would need 48 hours of
non-one-to-one sitter type activity in order to be accepted 
their
facilities"
0|97.2|76|110/52|18|96% RA|
Per granddaughter, he had been pulling at his foley all week and
had to be switched several times, last replaced this AM
CBI started in ED. 
Meds given in the ED:
___ 21:59 LR |Finasteride 5 mg|Donepezil 10 mg|Terazosin 2
mg|IV CefTRIAXone 1 g |
Upon arrival to the floor he does not report any chest pain,
shortness of breath, penile pain or other disturbing symptoms. 
ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
BENIGN PROSTATIC HYPERTROPHY                                    
CHEST PAIN                                                      
RETINA HOLE                                                     
MACULAR HOLE                                                    
MACULAR FIBROSIS                                                
MILD COGNITIVE DISORDER
HIT WITH STEEL BEAM ON CHEST IN ___ SUFFERED A CARDIAC ARREST
AND RESUSCITATED AT ___

 
Social History:
___
Family History:
Relative Status   Age Problem              Onset Comments       
Mother   ___ ___   neither wife nor patient knew why
                                         
Father   ___ ___   ? asthma                 
Daughters: died of cancer in their ___                          

 
Physical Exam:
Admission Exam:
97.7 PO 115 / 64 74 16 95 RA 
VITALS: Afebrile and vital signs stable 
GENERAL: Alert and in no apparent distress. He looks very well. 
EYES: Anicteric, pupils 4mm and sluggish b/l
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs RLL crackles with decreased air movement 
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel 
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation. Three way 
foley draining clear urine
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly 
intact throughout
PSYCH: pleasant, appropriate affect

Discharge Exam:
VITALS: T 97.6 BP 136/74 HR 81 RR 17 O2 sat 97% on room air
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement 
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. No HSM
GU: No supra-pubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs. Left knee w/ notable 
effusion in medial and lateral, without warmth/erythema and 
normal range of motion of knee
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, sensation to light touch 
grossly intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
ADMISSION LABS:

___ 09:50PM BLOOD WBC-7.2 RBC-2.54* Hgb-7.7* Hct-25.0* 
MCV-98 MCH-30.3 MCHC-30.8* RDW-12.9 RDWSD-45.9 Plt ___
___ 09:50PM BLOOD Neuts-66.0 Lymphs-17.2* Monos-13.3* 
Eos-2.2 Baso-0.3 Im ___ AbsNeut-4.76 AbsLymp-1.24 
AbsMono-0.96* AbsEos-0.16 AbsBaso-0.02
___ 09:50PM BLOOD ___ PTT-23.9* ___
___ 09:50PM BLOOD Glucose-104* UreaN-34* Creat-0.9 Na-142 
K-4.3 Cl-110* HCO3-22 AnGap-10
___ 09:50PM BLOOD ALT-40 AST-47* AlkPhos-101 TotBili-0.5
___ 09:50PM BLOOD Albumin-2.9* Calcium-8.3* Phos-2.9 Mg-2.2
___ 10:04PM BLOOD Lactate-1.1

DISCHARGE LABS:

___ 06:25AM BLOOD WBC-8.1 RBC-2.62* Hgb-8.0* Hct-24.9* 
MCV-95 MCH-30.5 MCHC-32.1 RDW-12.5 RDWSD-43.6 Plt ___
___ 06:25AM BLOOD Glucose-78 UreaN-25* Creat-0.8 Na-144 
K-4.5 Cl-110* HCO3-24 AnGap-10

MICRO:

___ 12:00 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___ Blood cultures x2 NGTD (pending at time of d/c)

IMAGING:
EXAMINATION:  CHEST (PORTABLE AP) 
  
INDICATION:  ___ year old man with leukocytois-- eval for 
pneumonia// eval for pneumonia 
  
IMPRESSION:  
  
In comparison with the study of ___, there are slightly 
improved lung volumes.  Cardiac silhouette remains enlarged with 
minimal if any vascular congestion.  Specifically, no evidence 
of acute focal pneumonia. 
Extensive ribcage deformities are seen bilaterally, 
predominantly involving the upper regions. 

EXAMINATION:  CT HEAD W/O CONTRAST 
  
INDICATION:  History: ___ with ams fever 101, getting full work 
up// PNA? 
Bleed? 
  
TECHNIQUE:  Contiguous axial images from skullbase to vertex 
were obtained 
without intravenous contrast.  Coronal and sagittal reformations 
and bone 
algorithms reconstructions were also performed. 
  
DOSE:  Acquisition sequence: 
   1) Sequenced Acquisition 16.0 s, 16.0 cm; CTDIvol = 50.2 mGy 
(Head) DLP = 
802.7 mGy-cm. 
 Total DLP (Head) = 803 mGy-cm. 
  
COMPARISON:  MRI brain ___ 
  
FINDINGS:  
  
There is no evidence of acute large territorial infarction, 
intracranial 
hemorrhage, edema, or mass effect. 
  
There is prominence of the ventricles and sulci suggestive of 
age-related 
cerebral volume loss. Periventricular and subcortical white 
matter 
hypodensities are nonspecific, though likely sequelae of chronic 
small vessel ischemic disease. Atherosclerotic vascular 
calcifications are noted of bilateral vertebral and cavernous 
portions of internal carotid arteries. 
  
No acute fracture is seen.  There is a large mucous retention 
cyst in the left maxillary sinus but otherwise, the partially 
imaged paranasal sinuses, mastoid air cells, and middle ear 
cavities are clear. 
  
IMPRESSION:  
  
No acute intracranial process.  No evidence of acute 
intracranial hemorrhage. 

 
Brief Hospital Course:
Mr. ___ is an ___ male hx mild cognitive disorder, 
bph, recent left hip fracture s/p L hip ORIF admitted ___ after 
presenting to rehab with encephalopathy found to have fever, 
possible uti as well as hematuria.

#URINARY RETENTION
#HEMATURIA
3 way CBI was initiated and initially ran clear and there were 
plans for discontinuation but gross hematuria has persisted. CBI 
discontinued on ___ without any gross hematuria, Foley still in 
place. Per urology should keep Foley in for around 5 days after 
bleeding, and then can trial removal, which will need to be done 
after arrival to rehab. Home full dose aspirin on hold, can be 
restarted as an outpatient. Continued on usual BPH meds of 
finasteride and tamsulosin. He was given three days of 
ceftriaxone w/ concern for UTI, however this was discontinued 
when urine culture was negative (blood cultures also NGTD).

#TOXIC METABOLIC ENCEPHALOPATHY:
#UNDERLYING COGNITIVE DYSFUNCTION:
His toxic metabolic encephalopathy is most likely multifactorial 
in etiology secondary to a UTI, underlying cognitive disorder 
and urinary obstruction from clot from a traumatic Foley 
discontinuation. He is back to mental status baseline per 
family.

#ACUTE BLOOD LOSS ANEMIA:
#CHRONIC IRON DEFICIENCY ANEMIA:
Hemoglobin downtrended to 6.7 likely in the setting of blood 
loss through urine, and appropriately responded to 8 after one 
unit of PRBCs on ___.

#S/P ORIF OF L HIP FRACTURE ___: 
Surgery done by Dr. ___ at ___ on ___. Cautiously 
continued on Lovenox 40 mg daily for DVT ppx, which should 
continue until his orthopedics follow-up appointment. Planned to 
d/c to rehab.

#LEFT KNEE SWELLING: 
Does not appear warm, has been present for days per daughter. 
Has had this before. Appears clinically most consistent with 
osteoarthritis, (reportedly has had this fluid removed before). 
Range of motion is preserved, and he only has minimal pain when 
ambulating. Does not clinically seem to be superinfected (no 
pain, no warmth, no erythema).

#TRANSITIONAL ISSUES:
-extensive ribcage abnormalities seen on chest x-ray, would 
recommend repeat x-ray as outpatient consider dedicated rib 
study can f/u w/ PCP
-___ out at rehab on ___
-voiding trial at rehab in ___ days
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. Donepezil 10 mg PO QHS 
3. Terazosin 2 mg PO QHS 
4. Aspirin 325 mg PO DAILY 
5. Lisinopril 2.5 mg PO DAILY 
6. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
7. Ferrous GLUCONATE 324 mg PO BID 
8. Docusate Sodium 100 mg PO BID 
9. Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line 
10. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 

 
Discharge Medications:
1.  Enoxaparin Sodium 40 mg SC DAILY  
2.  Oxybutynin 5 mg PO Q8H:PRN bladder spasms  
3.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
4.  Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line  
5.  Docusate Sodium 100 mg PO BID  
6.  Donepezil 10 mg PO QHS  
7.  Ferrous GLUCONATE 324 mg PO BID  
8.  Finasteride 5 mg PO DAILY  
9.  Lisinopril 2.5 mg PO DAILY  
10.  Terazosin 2 mg PO QHS  
11. HELD- Aspirin 325 mg PO DAILY  This medication was held. Do 
not restart Aspirin until told by your MD to restart, after 
___ is out

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Hematuria (blood in the urine)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you during your recent 
admission for blood in your urine. Your bladder was irrigated 
with improvement in the bleeding and you were seen by a 
urologist.
 
Followup Instructions:
___